US07368424B2
Methyl (2Z)-2-{[(benzyloxy)carbonyl]amino}-3-(4-isopropylphenyl)acrylate
4-Isopropylbenzaldehyde (2.00 g, 13.50 mmol) and methyl{[(benzyloxy)carbonyl]amino}-(dimethoxyphosphoryl)acetate (3.58 g, 10.80 mmol, 0.8 equivalent) are dissolved in tetrahydrofuran (20 ml) and cooled to −78° C. At −78° C., N,N,N′,N′-tetramethylguanidine (27.92 g, 0.24 mol, 11.5 equivalents) is added dropwise and then stirred at −78° C. for 3 h and subsequently at room temperature 3 days. The mixture is then extracted by shaking with ethyl acetate (twice 100 ml) and water, and the combined organic phases are washed with saturated sodium chloride solution and dried over sodium sulphate. After concentration, the crude product is chromatographed (Biotage 40M, cyclohexane/ethyl acetate 5/1). 3.47 g (73% of theory) of the title compound are obtained.

reactant | 4-Isopropylbenzaldehyde | 13.50 mmol, 2.00 g | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
reactant | methyl{[(benzyloxy)carbonyl]amino}-(dimethoxyphosphoryl)acetate | 10.80 mmol, 3.58 g, 0.8 equivalent | COC(C(P(=O)(OC)OC)NC(=O)OCC1=CC=CC=C1)=O | C13H18NO7P
reactant | N,N,N′,N′-tetramethylguanidine | 0.24 mol, 27.92 g, 11.5 equivalents | CN(C(=N)N(C)C)C | C5H13N3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Methyl (2Z)-2-{[(benzyloxy)carbonyl]amino}-3-(4-isopropylphenyl)acrylate | C(C1=CC=CC=C1)OC(=O)N\C(\C(=O)OC)=C/C1=CC=C(C=C1)C(C)C | C21H23NO4
